US05679683
A solution of cyano-(5-methoxy-2-nitrophenyl)acetic acid ethyl ester (13.2 g, 46.3 mmol, 93-95% pure) in glacial acetic acid (185 mL) is treated with a single charge of zinc dust (12.1 g, 185 mmol). The mixture is heated at 55° C. for 45 min, then treated with more zinc (4 g). After heating for another 105 min, the brown mixture is filtered through a pad of flash silica gel. The pad is washed well with acetic acid and the filtrate is concentrated to a residue that is distributed between dichloromethane and H2O. The organic phase is washed with 5% aqueous sodium bicarbonate and concentrated to a residue that shows about a 1:1 mixture of products by silica gel thin layer chromatography (dichloromethane:EtOAc, 3:1). The residue is purified by flash silica gel chromatography eluting sequentially with 100:0, 95:5, and 90:10 dichloromethane:EtOAc. The fractions containing the pure higher Rf product are combined and concentrated to a solid that is sonicated in tert-butyl methyl ether. The solids are collected by filtration to give pure 2-amino-5-methoxy-1H-indole-3-carboxylic acid ethyl ester (2.07 g) as an off-white solid. Further chromatography of the combined mother liquor and impure fractions affords 120 mg of additional product. Total yield=2.19 g (20%). 1H NMR (DMSO) : δ10.44 (1H, br s, exchanges with D2O), 7.11 (1H, d, J=2.2 Hz), 6.98 (1H, d, J=8.4 Hz), 6.61 (2H, br s, exchanges with D2O), 6.48 (1H, dd, J=8.4, 2.7 Hz), 4.20 (2H, q, J=7.0 Hz), 3.71 (3H, s), 1.32 (3H, t, J=7.2 Hz).

reactant | cyano-(5-methoxy-2-nitrophenyl)acetic acid ethyl ester | 46.3 mmol, 13.2 g | C(C)OC(C(C1=C(C=CC(=C1)OC)[N+](=O)[O-])C#N)=O | C12H12N2O5
solvent | acetic acid | 185 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 185 mmol, 12.1 g | [Zn] | Zn
catalyst | zinc | 4 g | [Zn] | Zn
product | 2-amino-5-methoxy-1H-indole-3-carboxylic acid ethyl ester | 2.07 g | C(C)OC(=O)C1=C(NC2=CC=C(C=C12)OC)N | C12H14N2O3
